US08349824B2
A mixture of 1-methyl-5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 223 μmol), azetidine (60.2 μl, 893 μmol), propylphosphonic anhydride (50% in ethyl acetate, 329 μl, 558 μmol) and N,N-diisopropylethylamine (114 μl, 669 μmol) in tetrahydrofurane (7 ml) is stirred for 18 hours at room temperature. The solvent is evaporated and the residue triturated with sat. aqueous sodium bicarbonate solution. The solid is collected by filtration, washed with water and dried affording 4-(azetidine-1-carbonyl)-1-methyl-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (28 mg, 31.2%) as a light brown solid. mp.: 253-4° C. MS: m/z=403.4 (M+H+).

reactant | 1-methyl-5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 223 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)=O)C(=O)O | C17H13N7O3
reactant | azetidine | 893 μmol, 60.2 μl | N1CCC1 | C3H7N
reactant | propylphosphonic anhydride | 558 μmol, 329 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 669 μmol, 114 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | 4-(azetidine-1-carbonyl)-1-methyl-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 28 mg, 31.2% | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)C | C20H18N8O2
